### PR TITLE
Fix posnat notation and add lemma variants for nat intervals

### PR DESCRIPTION
**Pull request by hoheinzollern**
##### Motivation for this change

- added gtn0, gen0, ltn0F, neqn0, eqn0F for nat intervals
- documenting natural number interval types

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/interval_inference.v [hunk 1]
```diff
@@ -28,6 +28,11 @@ From mathcomp Require Import orderedzmod numdomain numfield ssrint.
 (*                  {i01 R} is canonically stable by common operations.       *)
 (*    {posnum R} := {itv R & `]0, +oo[)                                       *)
 (*    {nonneg R} := {itv R & `[0, +oo[)                                       *)
+(*    {natitv i} := generic type of natural numbers in interval i             *)
```
Comment (proux01) [inline algebra/interval_inference.v]: BTW, why not
```suggestion
(*    {itv nat & i} := generic type of natural numbers in interval i             *)
```
which would be closer from the generic `{itv R & i}` above?

File: algebra/interval_inference.v [hunk 2]
```diff
@@ -28,6 +28,11 @@ From mathcomp Require Import orderedzmod numdomain numfield ssrint.
...
+(*         {n01} := {natitv `[0, 1]}                                          *)
```
Comment (proux01) [inline algebra/interval_inference.v]: If we want to be uniform we could use `{i01 nat}` but I must agree it's longer, so maybe not better.

File: algebra/interval_inference.v [hunk 3]
```diff
@@ -28,6 +28,11 @@ From mathcomp Require Import orderedzmod numdomain numfield ssrint.
...
+(*                  Natural numbers in [0, 1], i.e., 0 or 1.                  *)
+(*      {posnat} := {natitv `]0, +oo[)                                        *)
```
Comment (proux01) [inline algebra/interval_inference.v]: `{posnum nat}` would be the uniform version, but much longer, maybe better to keep `{posnat}`

File: algebra/interval_inference.v [hunk 4]
```diff
@@ -614,12 +624,22 @@ case: x => x /= /[swap] /num_spec_sub /[apply] /andP[_] /=.
 by rewrite in_itv/= andbT.
 Qed.
 
+Lemma gen0 (x : nat_def i) : unify_itv i (Itv.Real `[0%Z, +oo[) -> (0 <= x%:num)%N.
```
Comment (proux01) [inline algebra/interval_inference.v]: Do we really need that one? `(0 <= _)%N` simplifies to `true = true` anyway

File: algebra/interval_inference.v [hunk 5]
```diff
@@ -614,12 +624,22 @@ case: x => x /= /[swap] /num_spec_sub /[apply] /andP[_] /=.
...
+by case: x => x /= /[swap] /nat_spec_sub /[apply] /andP[_] /=.
+Qed.
+
 Lemma lt0F x : unify_itv i (Itv.Real `[0%Z, +oo[) -> (x%:num < 0 :> R) = false.
 Proof.
 case: x => x /= /[swap] /num_spec_sub /[apply] /andP[_] /=.
 by rewrite in_itv/= andbT => /le_gtF.
 Qed.
 
+Lemma ltn0F (x : nat_def i) : unify_itv i (Itv.Real `[0%Z, +oo[) -> (x%:num < 0)%N = false.
```
Comment (proux01) [inline algebra/interval_inference.v]: Same, `(_ < 0)%N` simplifies to `false = false`

File: algebra/interval_inference.v [hunk 6]
```diff
@@ -1679,13 +1704,13 @@ End Test3.
 Module Test4.
 Section Test4.
 
-Type 0%:n01 : {n01}.
-Type 1%:n01 : {n01}.
-Fail Type 2%:n01 : {n01}.
+Type 0%:n01 : {i01 nat}.
+Type 1%:n01 : {i01 nat}.
+Fail Type 2%:n01 : {i01 nat}.
```
Comment (proux01) [inline algebra/interval_inference.v]: We could take the opportunity of this PR to fix https://github.com/math-comp/math-comp/pull/1485#discussion_r2852160874 (or this could be done in a subsequent PR, no strong opinion)

File: algebra/interval_inference.v [hunk 7]
```diff
@@ -591,6 +596,11 @@ case: x => x /= /[swap] /num_spec_sub /[apply] /andP[_].
 by rewrite /= in_itv/= andbT.
 Qed.
 
+Lemma gtn0 (x : nat_def i) : unify_itv i (Itv.Real `]0, +oo[) -> (0 < x%:num)%N.
+Proof.
+by case: x => x /= /[swap] /nat_spec_sub /[apply] /andP[_] //.
+Qed.
```
Comment (proux01) [inline algebra/interval_inference.v:602]: You may also want to add an `Arguments` command (c.f., https://github.com/math-comp/math-comp/blob/3f2158373a6c973151eb699fa8f2c8ad59d56e95/algebra/interval_inference.v#L694 ) and a `Hint` (c.f.,, https://github.com/math-comp/math-comp/blob/3f2158373a6c973151eb699fa8f2c8ad59d56e95/algebra/interval_inference.v#L739 )

**Comment by hoheinzollern** [comment]
It should be ready now, I've only left two commits for separate changelogs for this PR and #1485
